US04734423
A solution of L-proline (30 g, 0.26 mol), thymolphthalein (5 mg), and Na2CO3 (100 g) in water (500 mL) was treated at room temperature with concentrated aqueous NaOH solution until the solution was blue to the thymolphthalein indicator. The stirred solution was cooled to about 10° C. and treated portionwise with a solution of 3,4-dichlorobenzoyl chloride (58.65 g, 0.28 mol) in ether (100 mL) with periodic addition of concentrated aqueous NaOH solution as necessary to maintain the blue color. The reaction mixture was stirred for an additional 10 min after the addition was completed and then extracted with ether (2×150 mL). The aqueous phase was acidified to pH 1 with concentrated HC1 and extracted with ethyl acetate (4×250 mL). The combined ethyl acetate solution was washed with brine (150 mL), dried (Na2SO4), and concentrated in vacuo. The solid residue was crystallized from hot ethyl acetate-petroleum ether (2:1, 300 mL) to give 60.5 g (81%) of N-(3,4-dichlorobenzoyl)proline as fine white prisms. Recrystallization from the same solvents afforded the analytical sample of N-(3,4-dichlorobenzoyl)proline.

reactant | L-proline | 0.26 mol, 30 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | Na2CO3 | 100 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | NaOH | [OH-].[Na+]
reactant | thymolphthalein | CC1=CC(=C(C=C1C2(C3=CC=CC=C3C(=O)O2)C4=CC(=C(C=C4C)O)C(C)C)C(C)C)O | C28H30O4
reactant | 3,4-dichlorobenzoyl chloride | 0.28 mol, 58.65 g | ClC=1C=C(C(=O)Cl)C=CC1Cl | C7H3Cl3O
solvent | water | 500 mL | O | H2O
solvent | ether | 100 mL | CCOCC | C4H10O
catalyst | thymolphthalein | 5 mg | CC1=CC(=C(C=C1C2(C3=CC=CC=C3C(=O)O2)C4=CC(=C(C=C4C)O)C(C)C)C(C)C)O | C28H30O4
product | N-(3,4-dichlorobenzoyl)proline | 60.5 g, 81% | ClC=1C=C(C(=O)N2[C@H](C(=O)O)CCC2)C=CC1Cl | C12H11Cl2NO3
